US07932272B2
3,5-Diamino-pyrazine-2-carboxylic acid methyl ester
To a solution of 3,5-diamino-6-chloro-pyrazine-2-carboxylic acid methyl ester (8.00 g, 39.5 mmol) in tetrahydrofuran (150 mL) were added tetrakis(triphenylphosphine)palladium(0) (2.28 g, 1.98 mmol), formic acid (2.24 mL, 59.3 mmol) and triethylamine (16.5 mL, 119 mmol) at 0° C. under nitrogen atmosphere, then, the solution was stirred at 125° C. for 12 hours. The reaction solution was cooled to room temperature, and a solid precipitated. This solid was collected by filtration, and the title compound (10.7 g, quantitatively) was obtained as a crude product of a white solid.

reactant | 3,5-diamino-6-chloro-pyrazine-2-carboxylic acid methyl ester | 39.5 mmol, 8.00 g | COC(=O)C1=NC(=C(N=C1N)N)Cl | C6H7ClN4O2
reactant | formic acid | 59.3 mmol, 2.24 mL | C(=O)O | CH2O2
reactant | triethylamine | 119 mmol, 16.5 mL | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 150 mL | O1CCCC1 | C4H8O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 1.98 mmol, 2.28 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3,5-Diamino-pyrazine-2-carboxylic acid methyl ester | COC(=O)C1=NC=C(N=C1N)N | C6H8N4O2
